US06087357
To an ice-cooled solution of (2R)-N-benzyl-N-benzyloxycarbonylmethyl-2-(tert-butoxycarbonylamino)-3-(4-fluorophenyl)propanamide (9.48 g) in dichloromethane (55 ml) was added 4N hydrogen chloride in dioxane solution (54.6 ml). The mixture was stirred at the same temperature for 15 minutes and at room temperature for one hour. After removal of solvent by evaporation, excess aqueous sodium hydrogen carbonate solution was added to the resulting residue. The mixture was warmed at near 50° C. for several minutes and the resulting precipitates were collected by filtration and washed with water and dried in vacuo to give (3R)-1-benzyl-3-(4-fluorobenzyl)piperazine-2,5-dione (5.00 g).

reactant | (2R)-N-benzyl-N-benzyloxycarbonylmethyl-2-(tert-butoxycarbonylamino)-3-(4-fluorophenyl)propanamide | 9.48 g | C(C1=CC=CC=C1)N(C([C@@H](CC1=CC=C(C=C1)F)NC(=O)OC(C)(C)C)=O)CC(=O)OCC1=CC=CC=C1 | C30H33FN2O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dichloromethane | 55 ml | ClCCl | CH2Cl2
solvent | dioxane | 54.6 ml | O1CCOCC1 | C4H8O2
product | (3R)-1-benzyl-3-(4-fluorobenzyl)piperazine-2,5-dione | 5.00 g | C(C1=CC=CC=C1)N1C([C@H](NC(C1)=O)CC1=CC=C(C=C1)F)=O | C18H17FN2O2
